Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Penicillins / Nsaids / Iodine / Aleve / Motrin
 
Attending: ___.
 
Chief Complaint:
Episodes of Loss of Consciousness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ hx HTN, HLD, GERD, p/w syncope w/o prodrome ___.  

Upon arrival to the floor, she states that she had history of 
falls dating ___ years ago that were attributed to vertigo; the 
falls resolved until about 6 months ago when they began again. 
They became particularly "bad" over the weekend, when on ___ 
she stumbled down several stairs but was able to catch herself. 
She still has L shoulder pain from this. On ___ she was 
preparing to clean her cabinets when she lost consciousness and 
awoke on the floor. She did not bite her tongue, does not recall 
whether she lost bowel or bladder continence. The fall was 
un-witnessed, and she was on the ground for an unknown duration 
of time. After the event she felt foggy, as though she were a 
zombie. This happened twice more, prompting her to call her PCP, 
who directed her to come to the ED. She did not present that 
day, but did come on ___ for evaluation.  

 She has never had a prodrome to these events such as tunneling 
of vision, lightheadedness, diaphoresis, palpitations. Aside 
from a bad cold 1 mth ago, she has been otherwise well, without 
fevers, chills, n/v, cp, abdominal pain, diarrhea, constipation. 
There has been no focal loss of strength or sensation except for 
R foot numbness associated with her cold 1mth ago which has 
since resolved. She stays well hydrated drinking a gallon of 
water daily; she attributes having urinary frequency from this. 
She feels like she has gained 10lbs in the past month despite 
eating the same amount. There have been no recent medication 
changes.  

 In the ED, initial vitals were: 96.5 83 128/86 16 95% RA. FSBG 
78.  
 - Labs including CBC, Chem10, Trop, UA and UTox were negative. 
PTT elevated at 37.3.  
 - Imaging was generally unremarkable as recorded below.  
 - The patient was given 1g acetaminophen and admitted to 
medicine.  
 Vitals prior to transfer were: 58 119/60 18 99% RA.  

 
Past Medical History:
 HTN  
 HLD  
 GERD  
 Osteoporosis  
 Fibromyalgia  
 Sleep Apnea  
 Anorexia / Bulimia (Treated in the ___)
 
Social History:
___
Family History:
History of CAD on mother's side of family.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.2 154/88 69 18 97%RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Mild facial asymmetry with loss of nasolabial fold on L. 
Pt endorses hyperesthesia in V1 on R, V2 on L, otherwise normal 
cranial nerve exam. ___ strength upper/lower extremities with 
encouragement. Gait deferred.  

DISCHARGE PHYSICAL EXAM:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; improving ecchymosis on R knee (site of fall)  
Neuro: Mild facial asymmetry with loss of nasolabial fold on L. 
Pt endorses hyperesthesia in V1 on R, V2 on L, otherwise normal 
cranial nerve exam. ___ strength upper/lower extremities with 
encouragement. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:15PM BLOOD WBC-6.2 RBC-4.53 Hgb-13.2 Hct-41.9 MCV-93 
MCH-29.1 MCHC-31.5* RDW-13.7 RDWSD-46.6* Plt ___
___ 01:15PM BLOOD ___ PTT-37.3* ___
___ 01:15PM BLOOD Glucose-84 UreaN-14 Creat-0.6 Na-140 
K-3.9 Cl-100 HCO3-29 AnGap-15
___ 01:15PM BLOOD Calcium-9.9 Phos-3.7 Mg-2.0

PERTINENT FINDINGS:
===================
EEG ___:
Normal awake and sleep EEG.

MR HEAD/NECK W/ and W/O Contrast:
1. No acute intracranial abnormality without evidence 
infarction.
2. Patent head and neck vasculature without occlusion, 
dissection, significant stenosis, or aneurysm.  There is no 
cervical internal carotid artery stenosis

EKG ___:
Ectopic atrial rhythm. Compared to the previous tracing of 
___ no
significant change.

___ FEMUR (AP & LAT) RIGHT; KNEE (AP, LAT & OBLIQUE) RIGHT; 
TIB/FIB (AP & LAT) RIGHT: IMPRESSION: No acute fracture or 
dislocation.  
 ___ GLENO-HUMERAL SHOULDER: IMPRESSION: No acute fracture 
or dislocation.  
 ___ CT Head: IMPRESSION: No acute intracranial process.  
 ___ CT C-Spine: IMPRESSION:  
 1. No acute fracture or traumatic malalignment.  
 2. Mild degenerative changes, most pronounced at C6-C7, and 
better  
 characterized on prior MRI of the cervical spine.  
 
DISCHARGE LABS
==============
___ 06:19AM BLOOD WBC-5.5 RBC-4.34 Hgb-12.8 Hct-40.9 MCV-94 
MCH-29.5 MCHC-31.3* RDW-13.7 RDWSD-47.4* Plt ___
___ 06:19AM BLOOD Glucose-86 UreaN-25* Creat-0.7 Na-139 
K-4.2 Cl-103 HCO3-28 AnGap-12
___ 06:19AM BLOOD Glucose-86 UreaN-25* Creat-0.7 Na-139 
K-4.2 Cl-103 HCO3-28 AnGap-12
___ 06:19AM BLOOD Calcium-8.8 Phos-4.5 Mg-1.___ hx HTN, HLD who presented following multiple falls of 
unclear etiology over the past several years. 

# Syncope: Had prolonged history of falling and episodes of loss 
of consciousness over the past ___ years, but that worsened over 
the past several months.  She presented to the hospital due to 
multiple episodes of falling. She stated that she has syncopized 
and fallen without any prodrome on several occasions.  She has 
no history of structural heart disease, though no TTE was 
performed on this admission.  Patient was placed on Tele with no 
signs of arrhythmias and orthostatics were performed and were 
found to be normal.  Neurology was consulted, and recommended 
MRI/MRA of the neck/head and EEG.  Imaging and EEG revealed no 
signs seizures and no structural abnormalities that could be 
responsible for her symptoms.  After further discussion with 
neurology, it was determined that 
these episodes of legs buckling and transient confusion/mental 
fog are most likely orthostatic in nature and from low BP since 
the patient has had a seated SBP of 90 in the past (though not 
on this admission). The patient was discharged with plan for 
further cardiology workup as outpatient, including TTE and 
holter monitor as part of syncope workup with plans for close 
follow up with PCP to review holter results as well as neurology 
follow up.

#Urinary Urgency/Microscopic hematuria: Endorsed having to go to 
restroom for urinate suddenly, often without warning.  Does not 
always make it to the restroom in time.  No pain with urination 
or change in urine stream. No incontinence with laughing or 
barring down. Patient was encouraged to use timed voidings, 
weight loss, pelvic floor strengthening. No antimuscarinics were 
given, though patient was adivised to reduce coffee intake. 
- follow up UA is recommended to document resolution

#Headaches: Patient had history of headaches, that appeared 
worse in the morning and that improve with caffeine.  Patient 
endorsed having a pot of coffee every morning in addition to 
espressos.  Likely caffeine withdrawal related, was encouraged 
to have caffeine and acetaminophen PRN. 

#MSK Pain: Status post multiple falls before admission. X-ray 
show no sign of fracture. 

# HTN:  Stale, continued home losartan, and HCTZ for now  

# Asthma:  Stable, continued home fluticasone BID and Albuterol 
prn

# Depression:  Stable, continued home dose of fluoxetine 
 
Transitional Issues:
====================
- Consider LifeLine or other emergency call system for patient 
to use while at home alone
- Consider home blood pressure monitoring
- Consider outpatient Holter monitor
- Patient to complete Transthoracic Echocardiogram on an 
outpatient basis
- Patient to follow-up with neurology for restless leg syndrome, 
myoclonus on examination, and concern for falls/?syncope

# Code Status: Full Code (does not want prolonged life support) 
# Contact: Sisters ___ ___ or ___ 
Eserela ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Lisinopril 30 mg PO DAILY 
3. Fluticasone Propionate 110mcg 1 PUFF IH BID:PRN SOB 
4. Fluoxetine 10 mg PO BID 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1. Fluoxetine 10 mg PO BID 
2. Fluticasone Propionate 110mcg 1 PUFF IH BID:PRN SOB 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Losartan Potassium 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Lightheadedness

Secondary Diagnosis
 HTN  
 HLD  
 GERD  
 Osteoporosis  
 Fibromyalgia  
 Sleep Apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
repeated unexplained episodes of loss of consciousness.  X-rays 
were taken on your shoulder and knee from your falls, but no 
fractures were found.  Imaging of your head was performed (MRI 
and CAT Scans) to evaluate for head trauma or a neurologic cause 
of your loss of consciousness, but it was unremarkable. You were 
evaluated by the neurologists who felt it was safe for you to be 
discharged from the hospital with close follow-up. 

It is important that you call your primary care physician to 
schedule ___ follow-up appointment so that you can be seen in the 
next ___ days. Please take all of your medications as 
prescribed, and attend all of your follow-up appointments as 
scheduled.

We wish you the best of health,
Your Care Team at ___
 
Followup Instructions:
___